US04791139
1-(4-Fluoro-3-phenoxyphenyl)prop-2-en-1-ol (38 g) was dissolved in tetrahydrofuran (400 cm3) and concentrated hydrochloric acid (180 cm3) was added with vigorous stirring. Stirring was continued for a further 2 hours, after which time, analysis of a withdrawn sample by gas liquid chromatography showed no starting material remaining. The mixture was diluted with water and the products extracted into ethyl acetate. The combined organic layers were washed with water (4 times), then dried over anhydrous magnesium sulphate. Evaporation of the solvent under reduced pressure gave E-3-(4-fluoro-3-phenoxyphenyl)-1-chloroprop-2-ene (44 g) as a viscous oil, 98% pure by gas liquid chromatographic analysis.

reactant | 1-(4-Fluoro-3-phenoxyphenyl)prop-2-en-1-ol | 38 g | FC1=C(C=C(C=C1)C(C=C)O)OC1=CC=CC=C1 | C15H13FO2
reactant | hydrochloric acid | 180 cm3 | Cl | ClH
solvent | tetrahydrofuran | 400 cm3 | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | E-3-(4-fluoro-3-phenoxyphenyl)-1-chloroprop-2-ene | 44 g | FC1=C(C=C(C=C1)/C=C/CCl)OC1=CC=CC=C1 | C15H12ClFO
